US04062870
TRANS-4-ISOPROPYLAMINO-3,4-DIHYDRO-2,2-DIMETHYL-2H-BENZO [b]PYRAN-3-OL & ANALOGUES
3,4-Epoxy-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran (10000g.) prepared as described by R. Livingstone, J. Chem. Soc., 76, (1962), was treated with isopropylamine (12 ml: an excess) in refluxing ethanol (50 ml.) for 16 hours. The solution was then evaporated to dryness in vacuo to give an off-white solid (13.00g.). This residue was dissolved in diethyl ether and treated with ethereal hydrogen chloride to give a crystalline hydrochloride (12.06g). Re-crystallisation from ethanol/diethyl ether yielded trans-4-isopropyl-amino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride as colourless crystals, m.p. 172° - 174°. Similarly prepared were trans-4-dimethylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride as colourless crystals m.p. 175° - 176°, trans-4-t-butylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride as colourless crystals m.p. 239°-241°, trans-4-morpholino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride m.p. 181°-187°.

reactant | trans-4-dimethylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride | Cl.CN([C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC=C2)C
reactant | trans-4-t-butylamino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride | Cl.C(C)(C)(C)N[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC=C2
reactant | trans-4-morpholino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride | Cl.O1CCN(CC1)[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC=C2
product | TRANS-4-ISOPROPYLAMINO-3,4-DIHYDRO-2,2-DIMETHYL-2H-BENZO [b]PYRAN-3-OL | C(C)(C)N[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC=C2 | C14H21NO2
